US05075330
A solution of 2-[(2,3-dimethylphenyl) amino]benzoic acid, methyl ester (31 g, 121.5 mmol) in dry ether (600 ml) is added dropwise to a suspension of lithium aluminum hydride (6.9 g, 0.18 mmol) in dry ether (200 ml) under an atmosphere of dry nitrogen. The reaction mixture is stirred at room temperature overnight and quenched by the careful dropwise addition of water (7 ml), 15% NaOH (7 ml) and water (20 ml). The resulting suspension is filtered and the filtrate is evaporated to an oil which crystallizes upon addition of hexane to give pure 2-[(2,3-dimethylphenyl)amino]benzyl alcohol (26 g, 94%); mp 65°-69° C.

reactant | 2-[(2,3-dimethylphenyl) amino]benzoic acid, methyl ester | 121.5 mmol, 31 g | CC1=C(C=CC=C1C)NC1=C(C(=O)OC)C=CC=C1 | C16H17NO2
reactant | lithium aluminum hydride | 0.18 mmol, 6.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 600 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-[(2,3-dimethylphenyl)amino]benzyl alcohol | 26 g, 94% | CC1=C(C=CC=C1C)NC1=C(CO)C=CC=C1 | C15H17NO
